US08957080B2
Into a 100 mL round-bottom flask, was placed a solution of 3-[4-(2,5-difluoro-phenoxy)phenyl]-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (300 mg, 0.71 mmol, 1.00 equiv) in dichloromethane (30 mL), HATU (400 mg, 1.05 mmol, 1.5 equiv), triethylamine (220 mg, 2.17 mmol, 3.0 equiv), and 2-cyanoacetic acid (90 mg, 1.06 mmol, 1.5 equiv). The resulting solution was stirred for 10 h at 25° C. and then washed with water and brine and dried over anhydrous sodium sulfate and concentrated. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (10/1) to give 200 mg (58%) of 3-[(3R)-3-[4-amino-3-[4-(2,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile as a white solid.

reactant | 3-[4-(2,5-difluoro-phenoxy)phenyl]-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.71 mmol, 300 mg, 1.00 equiv | FC1=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@H]3CNCCC3)C=C(C=C1)F | C22H20F2N6O
reactant | HATU | 1.05 mmol, 400 mg, 1.5 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.17 mmol, 220 mg, 3.0 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-cyanoacetic acid | 1.06 mmol, 90 mg, 1.5 equiv | C(#N)CC(=O)O | C3H3NO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-[(3R)-3-[4-amino-3-[4-(2,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 200 mg, 58% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC(=C2)F)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H21F2N7O2
